US04610981
4-Chloro-N-[5-(1H-imidazol-1-yl)pentyl]benzenesulfonamide hydrochloride
The compound of this Example, mp 157°-161° C., was obtained when 1H-imidazole-1-pentanamine was reacted with 4-chlorobenzenesulfonyl chloride by the procedure of Example 20.

reactant | 1H-imidazole-1-pentanamine | N1(C=NC=C1)CCCCCN | C8H15N3
reactant | 4-chlorobenzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 4-Chloro-N-[5-(1H-imidazol-1-yl)pentyl]benzenesulfonamide hydrochloride | Cl.ClC1=CC=C(C=C1)S(=O)(=O)NCCCCCN1C=NC=C1 | InChI=1S/C14H18ClN3O2S.ClH/c15-13-4-6-14(7-5-13)21(19,20)17-8-2-1-3-10-18-11-9-16-12-18;/h4-7,9,11-12,17H,1-3,8,10H2;1H
